US07678798B2
tert-Butyl 4-Methyl-4-{3-methyl-4-[3-oxo-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate
A solution of 6-(trifluoromethyl)-1H-inden-1-one (100 mg, 0.505 mmol) and tert-butyl 4-methyl-4-(3-methylpiperazin-1-yl)piperidine-1-carboxylate (420 mg, 1.412 mmol) in carbon tetrachloride (8.00 mL) was heated at 60° C. for 18 h with stirring. After evaporation of solvent, the residue was purified on silica gel to give two diastereomers (3/1 ratio). Yield 180 mg (72%). LC-MS [M+1]=496.4.

reactant | 6-(trifluoromethyl)-1H-inden-1-one | 0.505 mmol, 100 mg | FC(C1=CC=C2C=CC(C2=C1)=O)(F)F | C10H5F3O
reactant | tert-butyl 4-methyl-4-(3-methylpiperazin-1-yl)piperidine-1-carboxylate | 1.412 mmol, 420 mg | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1CC(NCC1)C | C16H31N3O2
solvent | carbon tetrachloride | 8.00 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl 4-Methyl-4-{3-methyl-4-[3-oxo-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1CC(N(CC1)C1CC(C2=CC(=CC=C12)C(F)(F)F)=O)C | C26H36F3N3O3
